US04126675
Preparation of a 90%/10% methyl methacrylate/hexyl methacrylate copolymer:
This copolymer is prepared according to the same procedure as described in Example I above, except with 10g of hexyl methacrylate and 90g of methyl methacrylate.

reactant | hexyl methacrylate | C(C(=C)C)(=O)OCCCCCC | C10H18O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | methyl methacrylate hexyl methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OCCCCCC | InChI=1S/C10H18O2.C5H8O2/c1-4-5-6-7-8-12-10(11)9(2)3;1-4(2)5(6)7-3/h2,4-8H2,1,3H3;1H2,2-3H3
